* c:\users\vinit\esim-workspace\vinit_summation_of_counter_value\vinit_summation_of_counter_value.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
xsc3 xor net-_sc1-pad2_ net-_sc3-pad3_ net-_sc3-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc5 net-_sc5-pad1_ net-_sc10-pad1_ net-_sc1-pad3_ net-_sc5-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc7 xor net-_sc10-pad1_ net-_sc7-pad3_ net-_sc7-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc4 net-_sc3-pad3_ net-_sc11-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc8 net-_sc7-pad3_ net-_sc11-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc2 xor net-_sc11-pad1_ net-_sc1-pad1_ xor sky130_fd_pr__pfet_01v8_lvt 
xsc6 xor net-_sc11-pad2_ net-_sc5-pad1_ xor sky130_fd_pr__pfet_01v8_lvt 
v1  net-_sc1-pad3_ gnd 3
* s c m o d e
xsc12 net-_sc11-pad1_ net-_sc11-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc11 net-_sc11-pad1_ net-_sc11-pad2_ net-_sc1-pad3_ net-_sc11-pad1_ sky130_fd_pr__pfet_01v8_lvt 
xsc10 net-_sc10-pad1_ net-_sc1-pad2_ gnd ? sky130_fd_pr__nfet_01v8_lvt 
xsc9 net-_sc10-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc10-pad1_ sky130_fd_pr__pfet_01v8_lvt 
* u4  xor net-_u2-pad1_ adc_bridge_1
xsc14 inv net-_sc11-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc13 inv net-_sc11-pad2_ net-_sc1-pad3_ inv sky130_fd_pr__pfet_01v8_lvt 
* u5  net-_u1-pad3_ net-_u2-pad3_ net-_sc11-pad2_ net-_sc1-pad2_ dac_bridge_2
* u3  inv net-_u1-pad1_ adc_bridge_1
v2  clk gnd pulse(0 5 0.01 0.01 0.01 1 2)
* u10  clk net-_u1-pad2_ adc_bridge_1
* u7  c0 plot_v1
* u9  c1 plot_v1
* u6  clk plot_v1
* u8  net-_u1-pad3_ net-_u2-pad3_ c0 c1 dac_bridge_2
* u2  net-_u2-pad1_ net-_u1-pad2_ net-_u2-pad3_ vinit_dff_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ vinit_dff_v1
* u11  xor plot_v1
* u12  inv plot_v1
a1 [xor ] [net-_u2-pad1_ ] u4
a2 [net-_u1-pad3_ net-_u2-pad3_ ] [net-_sc11-pad2_ net-_sc1-pad2_ ] u5
a3 [inv ] [net-_u1-pad1_ ] u3
a4 [clk ] [net-_u1-pad2_ ] u10
a5 [net-_u1-pad3_ net-_u2-pad3_ ] [c0 c1 ] u8
a6 [net-_u2-pad1_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ ] u2
a7 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.4 in_high=1.41 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=2.20 in_high=2.80 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=2 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             vinit_dff_v1, NgSpice Name: vinit_dff_v1
.model u2 vinit_dff_v1(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             vinit_dff_v1, NgSpice Name: vinit_dff_v1
.model u1 vinit_dff_v1(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.001e-00 6e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(c0)
plot v(c1)
plot v(clk)
plot v(xor)
plot v(inv)
.endc
.end
